US05641430
Preparation of trans-4-(trans-4-(4-ethoxyphenyloxymethyl)-4-silacyclohexyl)-1-(4-pentenyl)cyclohexane
The general procedure of Example 39 was repeated using 4-ethoxyphenol and trans-4-(4-bromomethyl-4-phenyl-4-silacyclohexyl)-1-(4-pentenyl)cyclohexane, thereby obtaining the intended product.

reactant | 4-ethoxyphenol | C(C)OC1=CC=C(C=C1)O | C8H10O2
reactant | trans-4-(4-bromomethyl-4-phenyl-4-silacyclohexyl)-1-(4-pentenyl)cyclohexane | BrC[Si]1(CCC(CC1)[C@@H]1CC[C@H](CC1)CCCC=C)C1=CC=CC=C1 | C23H35BrSi
product | trans-4-(trans-4-(4-ethoxyphenyloxymethyl)-4-silacyclohexyl)-1-(4-pentenyl)cyclohexane | C(C)OC1=CC=C(C=C1)OC[Si@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC=C | C25H40O2Si
